US06903086B2
To a solution of (5-bromo-benzofuran-2-yl)-methanol (1.6 g, 3.7 mmol) and 4-tert-butylstannanyl-pyridazine (1 g; 4.4 mmol) in 15 mL dry toluene, was added tetrakis(triphenylphosphine)palladium (0) (130 mg). The mixture was stirred at 95° C. overnight. After allowing the mixture to come to room temperature, the solution was poured into water, extracted, dried over MgSO4, and filtrated to afford 2.4 g of crude product that was further purified by chromatography to afford (5-pyridazin-4-yl-benzofuran-2-yl)-methanol.

reactant | (5-bromo-benzofuran-2-yl)-methanol | 3.7 mmol, 1.6 g | BrC=1C=CC2=C(C=C(O2)CO)C1 | C9H7BrO2
reactant | 4-tert-butylstannanyl-pyridazine | 4.4 mmol, 1 g | C(C)(C)(C)[SnH2]C1=CN=NC=C1
reactant | water | O | H2O
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 130 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (5-pyridazin-4-yl-benzofuran-2-yl)-methanol | N1=NC=C(C=C1)C=1C=CC2=C(C=C(O2)CO)C1 | C13H10N2O2
